US07265149B2
In analogy to the procedure described for example 1 b], [2-methyl-5-(4-trifluoromethyl-phenyl)-2H-pyrazol-3-yl]-methanol (example 3 b]) was reacted with thionyl chloride in chloroform to yield 5-chloromethyl-1-methyl-3-(4-trifluoromethyl-phenyl)-1H-pyrazole as yellow oil.

reactant | [2-methyl-5-(4-trifluoromethyl-phenyl)-2H-pyrazol-3-yl]-methanol | CN1N=C(C=C1CO)C1=CC=C(C=C1)C(F)(F)F | C12H11F3N2O
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 5-chloromethyl-1-methyl-3-(4-trifluoromethyl-phenyl)-1H-pyrazole | ClCC1=CC(=NN1C)C1=CC=C(C=C1)C(F)(F)F | C12H10ClF3N2
